US04198509
13.1 g. of 1-benzyl-4-methylpiperazine-2-carboxylic acid, ethyl ester in 100 ml. of absolute alcohol and 3 g. of palladium on charcoal are shaken at room temperature and 50 psi for 41/2 hours. The catalyst is filtered off and the residue is distilled to obtain 4-methylpiperazine-2-carboxylic acid, ethyl ester, b.p. 0.3 mm 84°-86°.

reactant | 1-benzyl-4-methylpiperazine-2-carboxylic acid, ethyl ester | C(C1=CC=CC=C1)N1C(CN(CC1)C)C(=O)OCC | C15H22N2O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-methylpiperazine-2-carboxylic acid, ethyl ester | CN1CC(NCC1)C(=O)OCC | C8H16N2O2
